US03975444
c. 4-(3-Ethynylphenoxy)-o-dinitrobenzene
To 50 ml of refluxing 1N sodium hydroxide solution, under a nitrogen atmosphere, was added a solution containing 10 g (0.028 mole) of m-(3,4-dinitrophenoxy)-α-chlorocinnamaldehyde dissolved in 50 ml of 1,4-dioxane. The dark mixture was refluxed for one-half hour at which time the solution was cooled and acidified with 10% sulfuric acid. The reaction mixture was extracted with several 50 ml portions of ether, and the combined extracts evaporated to dryness. The residue was chromatographed on a 1 × 12 inch dry column of silica gel. Elution of the column using 3/1 hexane/methylene chloride produced a first band of sideproduct. Further elution using 1/1 hexane/methylene chloride yielded a second band which contained the desired product. Evaporation of the eluate to dryness in vacuo afforded 2 g (25%) of 4-(3-ethynylphenoxy)-o-dinitrobenzene as light yellow crystals, m.p. 68°-69°C.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | m-(3,4-dinitrophenoxy)-α-chlorocinnamaldehyde | 0.028 mole, 10 g | [N+](=O)([O-])C=1C=C(OC=2C=C(C=C(C=O)Cl)C=CC2)C=CC1[N+](=O)[O-] | C15H9ClN2O6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(3-Ethynylphenoxy)-o-dinitrobenzene | C(#C)C=1C=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC1 | C14H8N2O5
